US07122543B2
N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoyl]morpholine
4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid (18 mg, 0.0459 mmol) and morpholine (6 mg, 0.0689 mmol) were dissolved in methylene chloride (3 ml), then WSC-HCl (22 mg, 0.1147 mmol) was added thereto and the mixture was stirred at room temperature for 6 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (hexane:ethyl acetate=1:1) to give the title compound (10 mg, 0.0216 mmol, 47%).

reactant | 4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid | 0.0459 mmol, 18 mg | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1)C)=O | C23H20O6
reactant | morpholine | 0.0689 mmol, 6 mg | N1CCOCC1 | C4H9NO
reactant | WSC HCl | 0.1147 mmol, 22 mg | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoyl]morpholine | 0.0216 mmol, 10 mg, 47% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)N2CCOCC2)C=C1)C1=CC=CC=C1)C)=O | C27H27NO6
